US05030654
2-Benzenesulphonamido-3-{1-[(cis-4-ethoxycarbonyl-cyclohexyl)carbamoyl]cyclopentyl}propanoic acid t-butyl ester
2-Amino-3-{1-[(cis-4-ethoxycarbonyl-cyclohexyl)carbamoyl]cyclopentyl}propanoic acid t-butyl ester (0.605 g, 1.48 mmole) was dissolved in dry dichloromethane (25 ml) and treated at 0° C. with triethylamine (0.45 g, 4.4 mmole) and benzene sulphonyl chloride (0.24 ml, 1.84 mmole). After stirring for 16 hours at room temperature under nitrogen the dichloromethane was removed under vacuum, the residue taken up in diethyl ether (25 ml), washed with dilute hydrochloric acid, dilute sodium hydrogen carbonate and water, dried (Na2SO4) and the solvent evaporated under vacuum to give the crude product. Purification by column chromatography on silica, eluting with diethyl etherdichloromethane mixtures, gave pure title compound as a white foam (0.60 g, 74%). Found: C,61.38; H,7.85; N,5.06. C28H42N2O7S requires C,61.06; H,7.69; N,5.09%.

reactant | 2-Amino-3-{1-[(cis-4-ethoxycarbonyl-cyclohexyl)carbamoyl]cyclopentyl}propanoic acid t-butyl ester | 1.48 mmole, 0.605 g | C(C)(C)(C)OC(C(CC1(CCCC1)C(N[C@@H]1CC[C@@H](CC1)C(=O)OCC)=O)N)=O | C22H38N2O5
reactant | triethylamine | 4.4 mmole, 0.45 g | C(C)N(CC)CC | C6H15N
reactant | benzene sulphonyl chloride | 1.84 mmole, 0.24 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 2-Benzenesulphonamido-3-{1-[(cis-4-ethoxycarbonyl-cyclohexyl)carbamoyl]cyclopentyl}propanoic acid t-butyl ester | 0.60 g, 74% | C(C)(C)(C)OC(C(CC1(CCCC1)C(N[C@@H]1CC[C@@H](CC1)C(=O)OCC)=O)NS(=O)(=O)C1=CC=CC=C1)=O | C28H42N2O7S
